US09193935B2
2.3 (3-(2,4-Dimethylcyclohex-3-enyl)allyl)benzene
Starting from phenethyltriphenylphosphonium bromide (3.67 g, 8.20 mmol, 1.0 equiv.), n-Buli (1.6 M in hexanes, 5.1 mL, 8.20 mmol, 1.0 equiv.) and 2,4-dimethylcyclohex-3-enecarbaldehyde (1.70 g, 12.3 mmol, 1.5 equiv.), 1.14 g (61%) of the title compound as a colorless oil was obtained after purification by flash chromatography on SiO2 (cyclohexane).

reactant | phenethyltriphenylphosphonium bromide | 8.20 mmol, 3.67 g, 1.0 equiv. | [Br-].C(CC1=CC=CC=C1)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | 2,4-dimethylcyclohex-3-enecarbaldehyde | 12.3 mmol, 1.70 g, 1.5 equiv. | CC1C(CCC(=C1)C)C=O | C9H14O
product | (3-(2,4-Dimethylcyclohex-3-enyl)allyl)benzene | 1.14 g, 61% | CC1C(CCC(=C1)C)C=CCC1=CC=CC=C1 | C17H22
